* File: pc3d31u.dist.sp
* Created: Sun Jul  4 13:51:54 2010
* Program "Calibre xRC"
* Version "v2008.4_19.14"
* 
.include "pc3d31u.dist.sp.pex"
.subckt pc3d31u  VDDO VSS VSSO CIN PAD VDD
* 
M8 N_PAD_M14_d N_U14_MN4$11_gate_M8_g N_VSSO_M8_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M9 N_PAD_M15_d N_U14_MN4$11_gate_M9_g N_VSSO_M9_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=3.99e-11 PD=3.672e-05 PS=6.266e-05
M10 N_PAD_M16_d N_U14_MN4$11_gate_M10_g N_VSSO_M10_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M11 N_PAD_M17_d N_U14_MN4$11_gate_M11_g N_VSSO_M8_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M12 N_PAD_M18_d N_U14_MN4$11_gate_M12_g N_VSSO_M12_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=3.99e-11 PD=3.672e-05 PS=6.266e-05
M13 N_PAD_M19_d N_U14_MN4$11_gate_M13_g N_VSSO_M10_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M1 N_U14_padr_M1_d N_net_m1_VSSO_res_M1_g N_VDDO_M1_s N_VDDO_M5_b PHV L=2e-06
+ W=2e-06 AD=4e-12 AS=4e-12 PD=8e-06 PS=8e-06
XR20 N_U14_MN4$11_gate_R20_pos N_VSSO_R20_neg RNWELLSTI2T w=2.1e-06 l=8.65e-06 
M14 N_PAD_M14_d N_U14_MN4$11_gate_M14_g N_VSSO_M14_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M15 N_PAD_M15_d N_U14_MN4$11_gate_M15_g N_VSSO_M14_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M16 N_PAD_M16_d N_U14_MN4$11_gate_M16_g N_VSSO_M16_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M17 N_PAD_M17_d N_U14_MN4$11_gate_M17_g N_VSSO_M16_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M18 N_PAD_M18_d N_U14_MN4$11_gate_M18_g N_VSSO_M18_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M19 N_PAD_M19_d N_U14_MN4$11_gate_M19_g N_VSSO_M18_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
XRM1 N_net_m1_VSSO_res_RM1_pos N_VSSO_RM1_neg RPMPOLY2T w=2e-06 l=6.455e-06 
M21 N_VDDO_M21_d N_U14_pgate_tol_M21_g N_PAD_M21_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=7.384e-11 AS=1.2064e-10 PD=0.00010684 PS=5.664e-05
M22 N_VDDO_M25_d N_U14_pgate_tol_M22_g N_PAD_M21_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M23 N_VDDO_M32_d N_U14_pgate_tol_M23_g N_PAD_M23_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M24 N_VDDO_M24_d N_U14_pgate_tol_M24_g N_PAD_M23_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=7.384e-11 AS=1.2064e-10 PD=0.00010684 PS=5.664e-05
M25 N_VDDO_M25_d N_U14_pgate_tol_M25_g N_PAD_M25_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M26 N_VDDO_M26_d N_U14_pgate_tol_M26_g N_PAD_M25_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M27 N_VDDO_M26_d N_U14_pgate_tol_M27_g N_PAD_M27_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M28 N_VDDO_M28_d N_U14_pgate_tol_M28_g N_PAD_M27_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M29 N_VDDO_M28_d N_U14_pgate_tol_M29_g N_PAD_M29_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M30 N_VDDO_M30_d N_U14_pgate_tol_M30_g N_PAD_M29_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M31 N_VDDO_M30_d N_U14_pgate_tol_M31_g N_PAD_M31_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M32 N_VDDO_M32_d N_U14_pgate_tol_M32_g N_PAD_M31_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
XR6 N_X26/noxref_9_R6_pos N_PAD_R6_neg RNMPOLY2T w=4e-06 l=2.5e-06 
XR7 N_X26/noxref_9_R7_pos N_U14_padr_R7_neg RNMPOLY2T w=4e-06 l=2.5e-06 
M4 N_U14_pgate_tol_M4_s N_net_m4_VDDO_res_M4_g N_U14_pgate_tol_M4_s N_VSS_M4_b
+ NHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=1.03354e-11 PD=1.749e-05
+ PS=3.458e-05
M4@2 N_U14_pgate_tol_M4@2_s N_net_m4_VDDO_res_M4@2_g N_U14_pgate_tol_M4@2_s
+ N_VSS_M4_b NHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=6.8347e-12 PD=1.749e-05
+ PS=1.749e-05
M4@3 N_U14_pgate_tol_M4@3_s N_net_m4_VDDO_res_M4@3_g N_U14_pgate_tol_M4@3_s
+ N_VSS_M4_b NHV L=3.6e-07 W=1.667e-05 AD=1.05021e-11 AS=6.8347e-12 PD=3.46e-05
+ PS=1.749e-05
M2 N_VDDO_M2_d N_net_m2_VDDO_res_M2_g N_U14_pgate_tol_M2_s N_VSS_M4_b NHV
+ L=3.6e-07 W=1e-05 AD=6.2e-12 AS=6.2e-12 PD=2.124e-05 PS=2.124e-05
M42 N_U14_padr_M42_d N_net_m42_VSSO_res_M42_g N_VSSO_M42_s N_VSS_M4_b NHV
+ L=3.6e-07 W=1e-05 AD=6.2e-12 AS=4.1e-12 PD=2.124e-05 PS=1.082e-05
M42@2 N_U14_padr_M42@2_d N_net_m42_VSSO_res_M42@2_g N_VSSO_M42_s N_VSS_M4_b NHV
+ L=3.6e-07 W=1e-05 AD=6.2e-12 AS=4.1e-12 PD=2.124e-05 PS=1.082e-05
M40 N_U9_U33_source_M40_d N_U14_padr_M40_g N_VSSO_M40_s N_VSS_M4_b NHV
+ L=3.6e-07 W=9.5e-06 AD=4.34548e-12 AS=5.89e-12 PD=1.26503e-05 PS=2.024e-05
M41 N_U9_U41_gate_M41_d N_U14_padr_M41_g N_U9_U33_source_M40_d N_VSS_M4_b NHV
+ L=3.6e-07 W=6e-06 AD=3.9e-12 AS=2.74452e-12 PD=1.33e-05 PS=7.98968e-06
M39 N_VDDO_M39_d N_U9_U41_gate_M39_g N_U9_U33_source_M39_s N_VSS_M4_b NHV
+ L=3.6e-07 W=2.5e-06 AD=1.55e-12 AS=1.55e-12 PD=6.24e-06 PS=6.24e-06
M43 N_U9_U43_drain_M43_d N_U9_U41_gate_M43_g N_VSSO_M43_s N_VSS_M4_b NHV
+ L=3.6e-07 W=7.5e-06 AD=3.075e-12 AS=4.65e-12 PD=8.32e-06 PS=1.624e-05
M43@2 N_U9_U43_drain_M43_d N_U9_U41_gate_M43@2_g N_VSSO_M43@2_s N_VSS_M4_b NHV
+ L=3.6e-07 W=7.5e-06 AD=3.075e-12 AS=4.65e-12 PD=8.32e-06 PS=1.624e-05
M44 N_CIN_M44_d N_U9_U43_drain_M44_g N_VSS_M44_s N_VSS_M4_b NHV L=3.6e-07
+ W=4e-06 AD=2.48e-12 AS=2.48e-12 PD=9.24e-06 PS=9.24e-06
M5 N_U14_pgate_tol_M5_s N_net_m5_VSSO_res_M5_g N_U14_pgate_tol_M5_s N_VDDO_M5_b
+ PHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=1.03354e-11 PD=1.749e-05
+ PS=3.458e-05
M5@2 N_U14_pgate_tol_M5@2_s N_net_m5_VSSO_res_M5@2_g N_U14_pgate_tol_M5@2_s
+ N_VDDO_M5_b PHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=6.8347e-12 PD=1.749e-05
+ PS=1.749e-05
M5@3 N_U14_pgate_tol_M5@3_s N_net_m5_VSSO_res_M5@3_g N_U14_pgate_tol_M5@3_s
+ N_VDDO_M5_b PHV L=3.6e-07 W=1.667e-05 AD=1.05021e-11 AS=6.8347e-12 PD=3.46e-05
+ PS=1.749e-05
M3 N_U14_pgate_tol_M3_d N_net_m3_VSSO_res_M3_g N_VDDO_M3_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=2e-05 AD=1.24e-11 AS=1.24e-11 PD=4.124e-05 PS=4.124e-05
M36 N_U14_padr_M36_d N_net_m36_VDDO_res_M36_g N_VDDO_M36_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=1e-05 AD=4.1e-12 AS=6.2e-12 PD=1.082e-05 PS=2.124e-05
M36@2 N_U14_padr_M36_d N_net_m36_VDDO_res_M36@2_g N_VDDO_M36@2_s N_VDDO_M5_b
+ PHV L=3.6e-07 W=1e-05 AD=4.1e-12 AS=6.2e-12 PD=1.082e-05 PS=2.124e-05
M35 N_U9_U41_source_M35_d N_U14_padr_M35_g N_VDDO_M35_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=1.1e-05 AD=4.51e-12 AS=6.82e-12 PD=1.182e-05 PS=2.324e-05
M34 N_U9_U41_gate_M34_d N_U14_padr_M34_g N_U9_U41_source_M35_d N_VDDO_M5_b PHV
+ L=3.6e-07 W=1.1e-05 AD=6.82e-12 AS=4.51e-12 PD=2.324e-05 PS=1.182e-05
M33 N_VSSO_M33_d N_U9_U41_gate_M33_g N_U9_U41_source_M33_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=8e-06 AD=4.96e-12 AS=4.96e-12 PD=1.724e-05 PS=1.724e-05
M37 N_U9_U43_drain_M37_d N_U9_U41_gate_M37_g N_VDDO_M37_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=2e-05 AD=8.48e-12 AS=1.24e-11 PD=2.2208e-05 PS=4.124e-05
M37@2 N_U9_U43_drain_M37_d N_U9_U41_gate_M37@2_g N_VDDO_M37@2_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=1.75e-05 AD=7.42e-12 AS=1.085e-11 PD=1.9432e-05 PS=3.624e-05
M38 N_CIN_M38_d N_U9_U43_drain_M38_g N_VDD_M38_s N_VDD_M38_b PHV L=3.6e-07
+ W=9e-06 AD=5.58e-12 AS=3.69e-12 PD=1.924e-05 PS=9.82e-06
M38@2 N_CIN_M38@2_d N_U9_U43_drain_M38@2_g N_VDD_M38_s N_VDD_M38_b PHV
+ L=3.6e-07 W=9e-06 AD=3.69e-12 AS=3.69e-12 PD=9.82e-06 PS=9.82e-06
M38@3 N_CIN_M38@2_d N_U9_U43_drain_M38@3_g N_VDD_M38@3_s N_VDD_M38_b PHV
+ L=3.6e-07 W=9e-06 AD=3.69e-12 AS=3.69e-12 PD=9.82e-06 PS=9.82e-06
M38@4 N_CIN_M38@4_d N_U9_U43_drain_M38@4_g N_VDD_M38@3_s N_VDD_M38_b PHV
+ L=3.6e-07 W=9e-06 AD=5.58e-12 AS=3.69e-12 PD=1.924e-05 PS=9.82e-06
XRM36 N_net_m36_VDDO_res_RM36_pos N_VDDO_RM36_neg RPMPOLY2T w=2e-06 l=6.455e-06
+ 
XRM5 N_VSSO_RM5_pos N_net_m5_VSSO_res_RM5_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM4 N_VDDO_RM4_pos N_net_m4_VDDO_res_RM4_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM2 N_VDDO_RM2_pos N_net_m2_VDDO_res_RM2_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM3 N_net_m3_VSSO_res_RM3_pos N_VSSO_RM3_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM42 N_VSSO_RM42_pos N_net_m42_VSSO_res_RM42_neg RPMPOLY2T w=2e-06 l=6.455e-06
+ 
*
.include "pc3d31u.dist.sp.PC3D31U.pxi"
*
.ends
*
*
