************************************************************************
* auCdl Netlist:
* 
* Library Name:  tdi1k
* Top Cell Name: column_isource_tb
* View Name:     schematic
* Netlisted on:  May  7 11:46:04 2026
************************************************************************

.INCLUDE  /home/install/SCL180/SCLPDK_V3.0_KIT/scl180/pdk/cdns/sclpdk_v3/HOTCODE/amslibs/cds_oa/cdslibs/ts18scl/devices/ts018_oa_compana_6M1L/rev2.0/ref_libs/ts018_scl_prim/cdlNetlist.header
*.BIPOLAR
*.RESI = 0 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE MICRON
*.MEGA
.PARAM

*.GLOBAL gnd!

*.PIN gnd!

************************************************************************
* Library Name: tdi1k
* Cell Name:    column_isource
* View Name:    schematic
************************************************************************

.SUBCKT column_isource GND IOUT VDD
*.PININFO IOUT:O GND:B VDD:B
MPOUT_0 IOUT net1 VDD VDD P W=4.0 L=1.0 m=1.0
MPREF net1 net1 VDD VDD P W=4.0 L=1.0 m=1.0
.ENDS

************************************************************************
* Library Name: tdi1k
* Cell Name:    column_isource_tb
* View Name:    schematic
************************************************************************

.SUBCKT column_isource_tb
*.PININFO
*.CONNECT net1 gnd! 
*.CONNECT net2 gnd! 
XI0 gnd! gnd! gnd! / column_isource
.ENDS

