************************************************************************
* auCdl Netlist:
* 
* Library Name:  tdi1k
* Top Cell Name: pixel_4T_tb
* View Name:     schematic
* Netlisted on:  May  7 11:46:45 2026
************************************************************************

.INCLUDE  /home/install/SCL180/SCLPDK_V3.0_KIT/scl180/pdk/cdns/sclpdk_v3/HOTCODE/amslibs/cds_oa/cdslibs/ts18scl/devices/ts018_oa_compana_6M1L/rev2.0/ref_libs/ts018_scl_prim/cdlNetlist.header
*.BIPOLAR
*.RESI = 0 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE MICRON
*.MEGA
.PARAM

*.GLOBAL gnd!

*.PIN gnd!

************************************************************************
* Library Name: tdi1k
* Cell Name:    pixel_4T
* View Name:    schematic
************************************************************************

.SUBCKT pixel_4T GND RST_CTRL SEL_CTRL TX_CTRL VDD VOUT
*.PININFO RST_CTRL:I SEL_CTRL:I TX_CTRL:I VOUT:O GND:B VDD:B
DDP net2 GND DP 3.8809 7.88 M=1
MSEL net6 SEL_CTRL VOUT GND N W=420e-3 L=0.18 m=1.0
MSF VDD net5 net6 GND N W=420e-3 L=0.18 m=1.0
MRST VDD RST_CTRL net5 GND N W=420e-3 L=0.18 m=1.0
MTX net5 TX_CTRL net2 GND N W=420e-3 L=0.18 m=1.0
.ENDS

************************************************************************
* Library Name: tdi1k
* Cell Name:    pixel_4T_tb
* View Name:    schematic
************************************************************************

.SUBCKT pixel_4T_tb
*.PININFO
*.CONNECT net1 gnd! 
*.CONNECT net3 gnd! 
*.CONNECT net2 gnd! 
*.CONNECT net5 gnd! 
XI0 gnd! gnd! gnd! gnd! gnd! VOUT / pixel_4T
.ENDS

